US09216964B2
A mixture containing (S)-5-bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,2,3,4-tetrahydroisoquinoline (303 mg, 0.93 mmol), KMnO4 (176 mg, 1.12 mmol), 18-crown-6 (2-(5 mg, 0.93 mmol) in dichloromethane (4 ml) is stirred at room temperature for 18 hours. The reaction mixture is filtered through a celite pad and the filtrate is concentrated to dryness by rotary evaporation to give (S)-5-Bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-3,4-dihydroisoquinolin-1(2H)-one (LC-MS m/z: 341.2 (M+1)), which is used without further purification in the next step.

reactant | (S)-5-bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,2,3,4-tetrahydroisoquinoline | 0.93 mmol, 303 mg | BrC1=C2CCN(CC2=CC=C1)C[C@@H]1OC(OC1)(C)C | C15H20BrNO2
reactant | KMnO4 | 1.12 mmol, 176 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (S)-5-Bromo-2-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-3,4-dihydroisoquinolin-1(2H)-one | BrC1=C2CCN(C(C2=CC=C1)=O)C[C@@H]1OC(OC1)(C)C | C15H18BrNO3
